US04094870
To a solution of 9.6 g of 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione in a solvent mixture comprising 40 ml of a 10% aqueous sodium hydroxide solution and 40 ml of methanol is added at room temperature 4.4 g of 1-chloro-2-(1-pyrrolidinyl)ethane hydrochloride, and the resulting mixture is stirred at room temperature for 3 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate and, thereafter, the solvent is distilled off under reduced pressure to obtain an oily 2-[2-(1-pyrrolidinyl)ethylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine. The oily product thus obtained is treated, according to usual procedure, with fumaric acid and recrystallized from isopropyl alcohol to obtain 6.9 g of 2-[2-(1-pyrrolidinyl)ethylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine fumarate, m.p. 184°-188° C.

reactant | 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione | 9.6 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)Cl)=S | C15H10Cl2N2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
reactant | 1-chloro-2-(1-pyrrolidinyl)ethane hydrochloride | 4.4 g | Cl.ClCCN1CCCC1
solvent | water | O | H2O
product | 2-[2-(1-pyrrolidinyl)ethylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine | N1(CCCC1)CCSC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C21H21Cl2N3S
